US07994324B2
5-Nitro-2-chloroquinoline (CAS 13067-94-2, 2.4 g, 11.5 mmol) and (R)-1-aminoindane (3.13 g, 23 mmol) were stirred in a sealed tube at 120° C. overnight. The reaction mixture was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0→50:50 gradient). (R)-Indan-1-yl-(5-nitro-quinolin-2-yl)-amine was obtained as a brown solid (2.67 g, 76%), MS: m/e=306.3 (M+H+).

reactant | 5-Nitro-2-chloroquinoline | 11.5 mmol, 2.4 g | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (R)-1-aminoindane | 23 mmol, 3.13 g | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
product | (R)-Indan-1-yl-(5-nitro-quinolin-2-yl)-amine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C18H15N3O2
